US07772238B2
To a solution of benzo[b]thiophene-2,6-dicarboxylic acid 2-ethyl ester (6.40 g, 25.57 mmol) in 250 mL of anhydrous THF at 0° C. was slowly added BH3 (1.5M in THF, 80.0 mL, 120 mmol). The resulting mixture was allowed to stir at 0° C. for 30 min and at rt overnight. After cooling to 0° C., the reaction mixture was quenched with 1N HCl (30 mL). Additional 120 mL of water was added and THF was removed in vacuo. The solid formed was filtered and washed with 2×20 mL of water. After drying, 6-hydroxymethyl-benzo[b]thiophene-2-carboxylic acid ethyl ester was obtained as pale solid. 1H NMR (CDCl3, 200 MHz) δ 8.00 (s, 1H), 7.88-7.76 (m, 2H), 7.36 (d, J=9.4 Hz, 1H), 4.80 (s, 2H), 4.38 (q, J=7.0 Hz, 2H), 2.00 (brs, 1H), 1.39 (t, J=7.0 Hz, 3H). MS (EI): cal'd 237.0 (MH+), exp 237.1 (MH+).

reactant | benzo[b]thiophene-2,6-dicarboxylic acid 2-ethyl ester | 25.57 mmol, 6.40 g | CCOC(=O)C1=CC2=C(S1)C=C(C=C2)C(=O)O | C12H10O4S
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 6-hydroxymethyl-benzo[b]thiophene-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC2=C(S1)C=C(C=C2)CO | C12H12O3S
